US04168317
30.0 g of 4-hydroxy-1,2-benzisothiazole are suspended in 26.0 g of 1,3-dichloro-propan-2-ol and a solution of 8.5 g of sodium hydroxide in 60 ml of water is added in the course of 4 hours at 60°-80° C. After reacting for a further four hours at the same temperature, the organic phase is taken up in methylene chloride, dried over magnesium sulfate and evaporated to dryness. The residue left (35 g) is recrystallized from methanol. The 1-(1,2-benzisothiazol-4-yloxy)-3-chloropropan-2-ol thus obtained is identical with the sample prepared as described in (a). Preparation of compounds according to the invention

reactant | 4-hydroxy-1,2-benzisothiazole | 30.0 g | OC1=CC=CC2=C1C=NS2 | C7H5NOS
reactant | sodium hydroxide | 8.5 g | [OH-].[Na+]
reactant | 1,3-dichloro-propan-2-ol | 26.0 g | ClCC(CCl)O | C3H6Cl2O
solvent | water | 60 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(1,2-benzisothiazol-4-yloxy)-3-chloropropan-2-ol | S1N=CC2=C1C=CC=C2OCC(CCl)O | C10H10ClNO2S
